Name:  ___     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Dapsone
 
Attending: ___.
 
Chief Complaint:
elective admission for high dose methotrexate for CNS lymphoma
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ primarily ___ speaking man with coronary artery disease 

s/p BMS to large OM branch in ___ for inferior STEMI, HIV on 
ART (CD4 275, viral load undetectable in ___, 
high-grade CNS B cell lymphoma (brain stem) s/p brain biopsy, on 

high-dose MTX (started ___ and dexamethasone, presenting 
for cycle 8 of high dose methotrexate. After cycle 4 he had an 
MRI which showed improvement in his disease but some areas of 
residual enhancement. He continued on 2 week intervals until 
cycle 7, at which point MRI improved so switched to monthly 
cycles.

On arrival to the floor today he feels well. had a good month in 
___ with his family. He has no abdominal 
pain, no nausea, no vomiting, no fevers. He has no headache. 
He has increased sensitivity of his R scalp, which has been an 
ongoing problem 
for many years, since he had shingles. he has no runny nose, 
fevers, or cough. He has some tingling in his left foot which is 

stable. His vision he thinks is better overall.

Of note, the patient was admitted on ___ with anal HSV2 
infection. He was treated with treatment dose acyclovir for 7 
days and continued acyclovir daily for prophylaxis. As an 
outpatient he was found to have breakthrough lesions on 
suppressive acyclovir and his PCP started him on treatment doses 

of valacyclovir 1g BID. He has subsequently been transitioned to 

higher dose acyclovir 800mg BID and has not had any breakthrough 

lesions.

REVIEW OF SYSTEMS:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, rhinorrhea or congestion. Denies chest 
pain, chest pressure, or weakness. Denies nausea, vomiting, 
constipation, abdominal pain. Denies dysuria, arthralgias or 
myalgias. Denies rashes or skin changes. All other ROS negative  

 
Past Medical History:
PAST ONCOLOGIC HISTORY:
-- ___ - stereotaxic biopsy of the mass by Dr. ___  
-- ___ - started high-dose methotrexate  
-- ___ - C2D1 HD-MTX
-- ___  - C3D1 HD-MTX
-- ___ - C4D1 HD-MTX
-- ___   - C5D1 HD-MTX
-- ___  - C6D1 HD-MTX
 
PAST MEDICAL HISTORY:
-CNS B-cell Lymphoma
-CAD s/p BMS to large OM branch in ___ - chronically occluded 
LAD collateralized from the right coronary artery
-HIV on ART 
-history of pancreatitis ___ HIV medication
-Hypertension
-Hyperlipidemia
-Gastric ulcer
-anal HSV
-R ophthalmic zoster
 
Social History:
___
Family History:
Family history is notable for father and brother with prostate 
cancer, and 
several paternal aunts with breast cancer and maternal uncles 
with diabetes.
 
Physical Exam:
VS: 98.2    120/70    82    16     98%RA
GEN: alert, oriented to name, place and situation. no acute
signs of distress.
HEENT: NCAT, Pupils equal and reactive, sclerae non-icteric,
MMM, OP clear no erythema. frequent squinting of R eye
Neck: Supple
Lymph nodes: No cervical, supraclavicular or axillary LAD.
CV: S1S2, reg rate and rhythm, no murmurs, rubs or gallops.
RESP: Good air movement bilaterally, no rhonchi or wheezing.
ABD: Soft, non-tender, non-distended, no hepatosplenomegaly
EXTR: No lower leg edema. tingling sensation L foot but no
sensory loss
DERM: No active rash
Neuro: muscle strength grossly full and symmetric in all major
muscle groups
PSYCH: Appropriate and calm. 
 
Pertinent Results:
==================================
              Labs
==================================
___ 11:40AM BLOOD WBC-6.2 RBC-4.22* Hgb-13.3* Hct-40.2 
MCV-95 MCH-31.4 MCHC-33.0 RDW-14.3 Plt ___
___ 06:45AM BLOOD WBC-5.7 RBC-4.17* Hgb-13.3* Hct-39.5* 
MCV-95 MCH-31.8 MCHC-33.5 RDW-14.4 Plt ___
___ 11:40AM BLOOD ___ PTT-29.7 ___
___ 11:40AM BLOOD Glucose-124* UreaN-18 Creat-1.0 Na-137 
K-4.0 Cl-103 HCO3-23 AnGap-15
___ 06:40AM BLOOD Glucose-95 UreaN-14 Creat-1.0 Na-138 
K-3.6 Cl-97 HCO3-33* AnGap-12
___ 06:45AM BLOOD Glucose-109* UreaN-6 Creat-0.9 Na-140 
K-3.5 Cl-99 HCO3-34* AnGap-11
___ 11:40AM BLOOD ALT-16 AST-23 LD(LDH)-277* AlkPhos-79 
TotBili-0.4
___ 06:40AM BLOOD ALT-21 AST-24 AlkPhos-69 TotBili-0.6
___ 06:45AM BLOOD ALT-31 AST-31 AlkPhos-81 TotBili-0.5
___ 11:40AM BLOOD Albumin-4.3 Calcium-9.8 Phos-3.6 Mg-1.8
___:50PM BLOOD mthotrx-2.0
___ 06:45AM BLOOD mthotrx-0.30
___ 06:20PM BLOOD mthotrx-0.09

==================================
            Radiology            
==================================
MRI brain ___
IMPRESSION:  Minimal residual enhancement adjacent to the fourth 
ventricle on
the right, with T2 and FLAIR hyperintensity, consistent with 
post-surgical
changes, stable since the prior examination, with no evidence of 
new lesions
or new areas of abnormal enhancement.  Long-term followup is 
advised to
demonstrate stability.

 
Brief Hospital Course:
___ male with HIV, CAD, CNS lymphoma here for cycle 8 high dose 

methotrexate treatment. MRI after cycle 4 showed residual 
disease, so he continued on 2 week intervals until cycle 7, at 
which point MRI improved so switched to monthly cycles. After 
urinary 
alkalinization, he received methotrexate 16640mg (8g/m2).  
This was followed by leucovorin rescue 24 hours later. His 
methotrexate level on ___ is 0.09. He was discharged 
home in good condition. He has been asked to report back to ___ 
___ in 5 weeks 
for the next cycle (#9). He wants to spend an extra week in ___ 
___ daughter's birthday. 
For his HSV, he has been on acyclovir 800mg BID and will be 
monitored for symptoms. He continued his metoprolol and 
lisinopril at 
12.5mg and 2.5mg respectively with good control of blood 
pressure. On previous admissions his blood pressures have run 
slightly low but he has continued these medications without 
problem. During this admission he had continued double vision, 
which he has had since diagnosis. Overall he thinks it is much 
better, but maybe a little worse in the last month, though he is 
not sure. He will follow up with his eye doctor this week.  

# Dispo: 
[x] Discharge documentation reviewed, pt is stable for 
discharge.
[x] Time spent on discharge activity was greater than 30min.
[ ] Time spent on discharge activity was less than 30min.

# Active meds: See below.

____________________________________
___, MD, pager ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 800 mg PO Q12H 
2. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
3. Fish Oil (Omega 3) 1000 mg PO DAILY 
4. Lisinopril 2.5 mg PO DAILY 
5. Lopinavir-Ritonavir 2 TAB PO BID 
6. Metoprolol Succinate XL 12.5 mg PO DAILY 
7. Pravastatin 40 mg PO DAILY 
8. Aspirin 81 mg PO DAILY 
9. Omeprazole 40 mg PO DAILY 

 
Discharge Medications:
1. Acyclovir 800 mg PO Q12H 
2. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
3. Fish Oil (Omega 3) 1000 mg PO DAILY 
4. Lisinopril 2.5 mg PO DAILY 
5. Lopinavir-Ritonavir 2 TAB PO BID 
6. Metoprolol Succinate XL 12.5 mg PO DAILY 
7. Pravastatin 40 mg PO DAILY 
8. Aspirin 81 mg PO DAILY 
9. Omeprazole 40 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
CNS lymphoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure taking care of you during your stay at ___. You were admitted for treatment of
your brain lymphoma with high dose methotrexate chemotherapy.
You tolerated the chemo very well with no complications. You
should return to ___ in 1 month for your next treatment.
 
Followup Instructions:
___